US07157487B2
In xylene (10 ml), 2-bromo-6-chlorobenzothiazole (760 mg, 3.06 mmol), methyl 4-amino-3-chlorophenylacetate (610 mg, 3.06 mmol), and pyridinium•p-toluenesulfonate (PPTS) (230 mg, 0.92 mmol) were heated under reflux for 1 hour. After cooling, the reaction mixture was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (6:1, v/v) eluate fractions, methyl (4-(6-chloro-2-benzothiazolyl)amino-3-chlorophenyl)acetate (271 mg, 24%) was obtained as a pale yellow solid.

reactant | 2-bromo-6-chlorobenzothiazole | 3.06 mmol, 760 mg | BrC=1SC2=C(N1)C=CC(=C2)Cl | C7H3BrClNS
reactant | methyl 4-amino-3-chlorophenylacetate | 3.06 mmol, 610 mg | NC1=C(C=C(C=C1)CC(=O)OC)Cl | C9H10ClNO2
reactant | pyridinium•p-toluenesulfonate | 0.92 mmol, 230 mg | [NH+]1=CC=CC=C1.CC=1C=CC(=CC1)S(=O)(=O)O
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl (4-(6-chloro-2-benzothiazolyl)amino-3-chlorophenyl)acetate | 271 mg, 24% | ClC1=CC2=C(N=C(S2)NC2=C(C=C(C=C2)CC(=O)OC)Cl)C=C1 | C16H12Cl2N2O2S
